US08980911B2
To a solution of 7-chloro-2-methyl-1H-pyrrolo[2,3-c]pyridine (1.1 g, 06 mmol) in toluene were added tris (dibenzylidene acetone) dipalladium (302 mg, 0.3 mmol), Xantphos (0.286 g, 0.49 mmol), cesium carbonate (4.3 g, 13.2 mmol), and cyclopropanecarboxamide (0.842 g, 9 mmol). The resulting reaction mixture was heated to 110° C. and stirred for about 4 hours. The reaction mixture cooled to room temperature diluted with water and extracted with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The crude product was purified by silica gel (100-200) column chromatography to afford N-(2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide (0.45 g, 40% yield).

reactant | 7-chloro-2-methyl-1H-pyrrolo[2,3-c]pyridine | 1.1 g | ClC=1N=CC=C2C1NC(=C2)C | C8H7ClN2
reactant | Xantphos | 0.49 mmol, 0.286 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 13.2 mmol, 4.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclopropanecarboxamide | 9 mmol, 0.842 g | C1(CC1)C(=O)N | C4H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | tris (dibenzylidene acetone) dipalladium | 0.3 mmol, 302 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | N-(2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide | 0.45 g, 40% yield | CC1=CC=2C(=C(N=CC2)NC(=O)C2CC2)N1 | C12H13N3O
